US04781762
To a 250 mL flask containing 38.0 g (0.20 moles) ethyl 2-[(1'-ethoxy)ethoxy]propanoate at 23° C. is added a solution of 14.8 g (0.264 moles) KOH, 30.0 g (1.667 moles) water and 10.0 g (0.217 moles) ethanol over a 30 minute period. Maintaining ±23° C., the solution is stirred for one hour, then extracted with 20 g hexane. The aqueous phase is then stripped of all solvent under vacuum. A constant weight of 43.7 g potassium 2-[(1'-ethoxy)ethoxy]propanoate is obtained as a yellowish viscous liquid.

reactant | ethyl 2-[(1'-ethoxy)ethoxy]propanoate | 0.20 moles, 38.0 g | C(C)OC(C)OC(C(=O)OCC)C | C9H18O4
reactant | KOH | 0.264 moles, 14.8 g | [OH-].[K+]
reactant | water | 1.667 moles, 30.0 g | O | H2O
reactant | ethanol | 0.217 moles, 10.0 g | C(C)O | C2H6O
product | potassium 2-[(1'-ethoxy)ethoxy]propanoate | 43.7 g | C(C)OC(C)OC(C(=O)[O-])C.[K+] | InChI=1S/C7H14O4.K/c1-4-10-6(3)11-5(2)7(8)9;/h5-6H,4H2,1-3H3,(H,8,9);/q;+1/p-1
